US04053601
A solution of 2-methoxy-5-trifluoromethylphenyllithium in ether was added to a cold stirred solution of N-methylsuccinimide in benzene. The resultant mixture was allowed to stand overnight and was then decomposed with ammonium chloride solution to give N-methyl 3-(2-methoxy-5-trifluoromethylbenzoyl)propionamide.

reactant | 2-methoxy-5-trifluoromethylphenyllithium | COC1=C(C=C(C=C1)C(F)(F)F)[Li]
reactant | N-methylsuccinimide | CN1C(CCC1=O)=O | C5H7NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-methyl 3-(2-methoxy-5-trifluoromethylbenzoyl)propionamide | CNC(CCC(C1=C(C=CC(=C1)C(F)(F)F)OC)=O)=O | C13H14F3NO3
